### PR TITLE
feat(Analysis/Complex): WeierstrassFactor

### PR DESCRIPTION
**Pull request by jonwashburn**
PR 1 of the Hadamard Factorization pipeline 
Co-authored with Matteo Cipollina (matteo.cipollina@yahoo.it)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/WeierstrassFactor.lean [hunk 1]
```diff
@@ -0,0 +1,402 @@
...
+  simp [partialLogSum]
+
+/-- The tail `∑_{k>m} z^k / k`, written as `∑' k, z^(m+1+k)/(m+1+k)`. -/
+def logTail (m : ℕ) (z : ℂ) : ℂ :=
+  ∑' k, z ^ (m + 1 + k) / (m + 1 + k)
+
+/-- For `‖z‖ < 1`, the power series for `-log (1 - z)`. -/
+lemma neg_log_one_sub_eq_tsum {z : ℂ} (hz : ‖z‖ < 1) :
+    -log (1 - z) = ∑' k : ℕ, z ^ (k + 1) / (k + 1) := by
+  have h := hasSum_taylorSeries_neg_log hz
```
Comment (wwylele) [inline Mathlib/Analysis/Complex/WeierstrassFactor.lean:73]: I am surprised to discover `hasSum_taylorSeries_neg_log` invokes `1/0` with unshifted indices. Maybe we should add this version (with `HasSum`) as a recommended one in `Mathlib.Analysis.SpecialFunctions.Complex.LogBounds`?
